US07074777B2
(3) 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(N,N-dimethylaminocarbonylethoxymethyl)androst-5-ene
To 1α,3-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androst-5-ene (18.4 g), was added N,N-dimethylacrylamide (9.95 g), sodium hydride (60% in oil, 2.0 g), 15-crown-5 (2.2 g) and tetrahydrofuran (73.5 ml), followed by reaction at 0° C. for 8 hours. After stopping the reaction by adding a saturated aqueous ammonium chloride solution, the organic layer was washed with a saturated aqueous sodium bicarbonate solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to remove the solvent. The resulting residue was mixed with methanol (90 ml), stirred at room temperature while under suspension, followed by centrifugation. The thus obtained solid was dried to give the titled compound (13.2 g).

reactant | 1α,3-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androst-5-ene | 18.4 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C | C32H60O3Si2
reactant | N,N-dimethylacrylamide | 9.95 g | CN(C(C=C)=O)C | C5H9NO
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | 15-crown-5 | 2.2 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 73.5 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(N,N-dimethylaminocarbonylethoxymethyl)androst-5-ene | 13.2 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C37H69NO4Si2
